US07230031B2
4-(7-Amino-5-methylindan-4-yloxy)-2-(tetrahydropyran-4-yl methyl)phenol
4-[2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy) benzylidene]tetrahydropyran (230 mg) was dissolved in ethanol (10 mL) and ethyl acetate (2 mL). After adding 10% Pd/C (50 mg) under ice-cooling, the mixture was stirred at room temperature under an atmospheric pressure of hydrogen for 24 hours. The insoluble material was removed by filtration. The filtrate was evaporated under reduced pressure to dryness. The residue was purified by column chromatography on silica gel (eluent: exane/ethyl acetate) to give the title compound (138 mg).

reactant | 4-[2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy) benzylidene]tetrahydropyran | 230 mg | C(C1=CC=CC=C1)OC1=C(C=C2CCOCC2)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C29H29NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 4-(7-Amino-5-methylindan-4-yloxy)-2-(tetrahydropyran-4-yl methyl)phenol | 138 mg | NC=1C=C(C(=C2CCCC12)OC1=CC(=C(C=C1)O)CC1CCOCC1)C | C22H27NO3
